US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-1H-pyrazol-3-ylbenzamide
The synthesis of 1-(3,4-difluorobenzoyl)azetidine is described in Example 8, the synthesis of tert-butyl 3-[(3-hydroxy-5-{(1S)-1-methyl-2-[(triisopropylsilyl)oxy]ethoxy}benzoyl)amino]-1H-pyrazole-1-carboxylate is described below:

reactant | 1-(3,4-difluorobenzoyl)azetidine | FC=1C=C(C(=O)N2CCC2)C=CC1F | C10H9F2NO
reactant | tert-butyl 3-[(3-hydroxy-5-{(1S)-1-methyl-2-[(triisopropylsilyl)oxy]ethoxy}benzoyl)amino]-1H-pyrazole-1-carboxylate | OC=1C=C(C(=O)NC2=NN(C=C2)C(=O)OC(C)(C)C)C=C(C1)O[C@H](CO[Si](C(C)C)(C(C)C)C(C)C)C | C27H43N3O6Si
product | 3-[4-(Azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-1H-pyrazol-3-ylbenzamide | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)NC3=NNC=C3)C=C(C2)O[C@H](CO)C)C=C1)F | C23H23FN4O5
